US07935696B2
4-Bromo-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)-3-methylthiophene-2-carboxamide
The compound a was prepared by coupling commercially available 4-bromo-3-methylthiophene-2-carboxylic acid with 3-amino-N-cyclopropyl-4-methylbenzamide hydrochloride (prepared as described in WO 04/071440) using the method described in Example 128. HPLC Ret time=3.12 min. LCMS [M+H]+ 393.13.

reactant | 4-bromo-3-methylthiophene-2-carboxylic acid | BrC=1C(=C(SC1)C(=O)O)C | C6H5BrO2S
reactant | 3-amino-N-cyclopropyl-4-methylbenzamide hydrochloride | Cl.NC=1C=C(C(=O)NC2CC2)C=CC1C
product | 4-Bromo-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)-3-methylthiophene-2-carboxamide | BrC=1C(=C(SC1)C(=O)NC1=C(C=CC(=C1)C(NC1CC1)=O)C)C | C17H17BrN2O2S
